US06156774
2-[5-(1,2,3-Triazol-2-ylmethyl)thien-2-yl]-N-[2-(mercaptomethyl)-4-phenylbutyryl]glycine
The title compound was prepared from 2-[5-(1,2,3-triazol-2-ylmethyl)thien-2-yl]-N-[2-(acetylthiomethyl)-4-phenylbutyryl]glycine ethyl ester by (Description 59) the procedure described in Example 29. vmax (CHCl3) 3289 and 1621 cm-1. δ (CD3SOCD3) 1.68-1.83 (2H, m), 2.44-2.73 (5H, m), 5.20 (1H, d, J 6.87 Hz), 5.73 (2H, s), 6.83-6.94 (2H, m), 7.10-7.30 (5H, m), 7.74 and 7.78 (2H, two s's), 8.10 (1H, d, J 7.07 Hz). m/z 431 (MH+).

reactant | 2-[5-(1,2,3-triazol-2-ylmethyl)thien-2-yl]-N-[2-(acetylthiomethyl)-4-phenylbutyryl]glycine ethyl ester | C(C)OC(C(NC(C(CCC1=CC=CC=C1)CSC(C)=O)=O)C=1SC(=CC1)CN1N=CC=N1)=O | C24H28N4O4S2
solvent | CHCl3 | C(Cl)(Cl)Cl | CHCl3
product | 2-[5-(1,2,3-Triazol-2-ylmethyl)thien-2-yl]-N-[2-(mercaptomethyl)-4-phenylbutyryl]glycine | N=1N(N=CC1)CC1=CC=C(S1)C(NC(C(CCC1=CC=CC=C1)CS)=O)C(=O)O | C20H22N4O3S2
